US04880809
A mixture of 1,2-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one [Itoh et al., Chem. Pharm. Bull., 26, 504 (1978)] (2.2 g), powdery sodium methoxide [prepared by subjecting a 28% methanol solution of sodium methyoxide (8.5 g) to evaporation to dryness under reduced pressure] and dimethyl carbonate (40 ml) is heated for 9 hours under reflux in a stream of nitrogen. After cooling and subsequent addition of water (100 ml) and ethyl acetate (200 ml), the mixture is made acid with hydrochloric acid and shaken thoroughly. The organic layer is separated and evaporated under reduced pressure to give methyl ester of 1,2-dimethoxy-5-oxo-6,7,8,9,-tetrahydro-5H-benzocycloheptene-6-carboxylic acid. This product is dissolved in a mixture of methylene chloride (50 ml) and methanol (50 ml). To the solution is added sodium borohydride (0.5 g), and the mixture is stirred for 30 minutes. After addition of water (200 ml), the reaction mixture is extracted with methylene chloride (100 ml). The organic layer is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give methyl ester of 1,2-dimethoxy-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid (1.6 g) as a pale yellow oily product.

reactant | 1,2-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 2.2 g | COC1=C(C=CC2=C1CCCCC2=O)OC | C13H16O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium methyoxide | 8.5 g | COC.[Na]
solvent | methanol | CO | CH4O
product | 1,2-dimethoxy-5-oxo-6,7,8,9,-tetrahydro-5H-benzocycloheptene-6-carboxylic acid | COC1=C(C=CC2=C1CCCC(C2=O)C(=O)O)OC | C14H16O5
